US05441955
2-Fluoro-9-azaindolo[2,1-b]quinazoline-6,12-dione
Using the procedure in Example 36 and substituting 6-azaisatin (Example 9, J. Parrick et al., Tetrahedron Lett. 25:3099, 1984) for 5-fluoroisatin and 5-fluoroisatoic anhydride for 4-fluoroisatoic anhydride gives the title compound.

reactant | 5-fluoroisatin | FC=1C=C2C(C(NC2=CC1)=O)=O | C8H4FNO2
reactant | 5-fluoroisatoic anhydride | FC1=CC=C2C(C(=O)OC(N2)=O)=C1 | C8H4FNO3
reactant | 4-fluoroisatoic anhydride | FC=1C=C2C(C(=O)OC(N2)=O)=CC1 | C8H4FNO3
product | 2-Fluoro-9-azaindolo[2,1-b]quinazoline-6,12-dione | FC=1C=C2C(N3C(=NC2=CC1)C(C1=CC=NC=C13)=O)=O | C14H6FN3O2
